US09382238B2
To a solution of N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2,3-difluorophenyl)acetamide (10 mg, 0.014 mmol) in MeOH (3 mL) stirred under N2 at 20° C. was added Pd/C (0.147 mg, 1.384 μmol) in one charge. The solution was stirred under a H2 atmosphere. The reaction mixture was stirred at 10° C. for 12 h. The mixture was filtered, and the filtrate was concentrated in vacuo to give the crude product. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield a light yellow solid of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2,3-difluorophenyl)-N-(4-(2-hydroxy ethoxy)-3-(trifluoromethyl)phenyl)acetamide (3.17 mg, 6.19 μmol, 44.7% yield). TLC (DCM/MeOH=5:1, Rf=0.4): 1H NMR (400 MHz, CD3OD) δ 7.88 (d, J=2.4 Hz, 1H), 7.75 (dd, J=2.2, 8.8 Hz, 1H), 7.37-7.12 (m, 5H), 4.20-4.07 (m, 4H), 3.90 (t, J=5.0 Hz, 2H), 3.85 (s, 2H), 1.48 (t, J=7.0 Hz, 3H); ES-LCMS m/z 513.2 (M+H).

reactant | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2,3-difluorophenyl)acetamide | 0.014 mmol, 10 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C(=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)F)=O)C(F)(F)F | C39H35F5N2O6
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd/C | 1.384 μmol, 0.147 mg | [Pd] | Pd
product | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2,3-difluorophenyl)-N-(4-(2-hydroxy ethoxy)-3-(trifluoromethyl)phenyl)acetamide | 6.19 μmol, 3.17 mg, 44.7% yield | C(C)OC1=CC(=CNC1=O)C1=C(C(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)OCCO)C(F)(F)F)F)F | C24H21F5N2O5
